US07842685B2
Synthesis of 3-fluoro-N,N-dimethyl-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)aniline
2,2,2-Trifluoro-N-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)acetamide (80 mg, 0.175 mmol) was dissolved in THF (1.7 mL) before methyl iodide (13 μl, 0.210 mmol) and lithium diisopropylamide (175 μl, 0.350 mmol) were added and stirred at 0° C. for 30 min. The reaction mixture was diluted with 75 mL of DCM, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 2 times with 50 mL of water, separated, dried over sodium sulfate, and concentrated via rotovap to give the title compound after flash chromatography. MS (ESI) m/z: Calculated: 389.1; Observed: 390.1 (M++1).

reactant | 2,2,2-Trifluoro-N-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)acetamide | 0.175 mmol, 80 mg | FC(C(=O)NC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)(F)F | C23H15F4N3OS
reactant | methyl iodide | 0.210 mmol, 13 μl | CI | CH3I
reactant | lithium diisopropylamide | 0.350 mmol, 175 μl | C(C)(C)[N-]C(C)C.[Li+]
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-N,N-dimethyl-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)aniline | FC=1C=C(N(C)C)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H20FN3S
